US07235569B2
A mixture of 2-(6-methoxy-1-benzofuran-3-yl)ethyl iodide (301 mg. 1 mmol) (obtained by the above mentioned process) and 3 (1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (198 mg, 1 mmol) was heated at 120° C. in DMSO in the presence of N,N-diisopropylethylamine (5 ml, excess) for 24 hrs. At the end, the reaction mixture was quenched with water and extracted with chloroform. The organic layer was washed with water and dried over anhydrous MgSO4 and concentrated to dryness. The dark colored solid was purified by silica-gel column chromatography by eluting it with 70% ethyl acetae:hexane. 3-{1-[2-(6-methoxy-1-benzofuran-3-yl)ethyl]-1,2,3,6-tetrahydro-4-pyridinyl}-1H-indole was isolated as yellow oil; Yield: 180 mg (48%); 373 (M+H); 1H NMR: δ□8.6 (d, 1H), 8.25 (bs, 1H), 7.9 (d,1H), 7.6–6.9 (m, 7H), 6.23 (bs, 1H), 3.85 (s, 3H), 3.5 (m,2H), 3.0 (m, 2H), 2.8 (m, 4H), 2.65 (m, 2H).

reactant | 2-(6-methoxy-1-benzofuran-3-yl)ethyl iodide | 1 mmol, 301 mg | COC1=CC2=C(C(=CO2)CCI)C=C1 | C11H11IO2
reactant | (1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 1 mmol, 198 mg | N1CCC(=CC1)N1C=CC2=CC=CC=C12 | C13H14N2
reactant | N,N-diisopropylethylamine | 5 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMSO | CS(=O)C | C2H6OS
product | 3-{1-[2-(6-methoxy-1-benzofuran-3-yl)ethyl]-1,2,3,6-tetrahydro-4-pyridinyl}-1H-indole | COC1=CC2=C(C(=CO2)CCN2CCC(=CC2)C2=CNC3=CC=CC=C23)C=C1 | C24H24N2O2
